US08975254B2
f) Pyridine-2-carboxylic acid [(E)-2-(5-bromofuran-2-yl)vinyl]amide
The mixture of pyridine-2-carboxylic acid [2-benzenesulfinyl-2-(5-bromofuran-2-yl)ethyl]amide (0.11 g, 0.2623 mmol) and Na2CO3 (0.03 g, 0.2623 mmol) in toluene was refluxed in nitrogen atmosphere for 2 h. The toluene solution was washed with 1 M NaOH (25 ml), dried with Na2SO4 and evaporated. The crude product was purified by flash chromatography using heptane-EtOAc as a gradient eluent (90:10-80:20). The E isomer was used in the next step.

reactant | pyridine-2-carboxylic acid [2-benzenesulfinyl-2-(5-bromofuran-2-yl)ethyl]amide | 0.2623 mmol, 0.11 g | C1(=CC=CC=C1)S(=O)C(CNC(=O)C1=NC=CC=C1)C=1OC(=CC1)Br | C18H15BrN2O3S
reactant | Na2CO3 | 0.2623 mmol, 0.03 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Pyridine-2-carboxylic acid [(E)-2-(5-bromofuran-2-yl)vinyl]amide | BrC1=CC=C(O1)/C=C/NC(=O)C1=NC=CC=C1 | C12H9BrN2O2
